US05010090
This oil consisting of 1,1-bis(3-ethyl-2-thienyl)-1,4-dihydroxylbutan was mixed with 75 ml 2N hydrochloric acid solution, 75 ml tetrahydrofuran and 75 ml ethanol and heated at 50° C. for 18 h. The solution was evaporated and the resultant oil was purified by "flash" chromatography on silica gel (Art 9385) eluting with heptane/ethylacetate (5:1) to give 4,4-bis(3-ethylthien-2-yl)but-3-en-1-ol (5.4 g, 69%) as an oil.

reactant | 1,1-bis(3-ethyl-2-thienyl)-1,4-dihydroxylbutan | C(C)C1=C(SC=C1)C(CCCO)(O)C=1SC=CC1CC | C16H22O2S2
reactant | hydrochloric acid | 2N, 75 ml | Cl | ClH
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4,4-bis(3-ethylthien-2-yl)but-3-en-1-ol | 5.4 g, 69% | C(C)C1=C(SC=C1)C(=CCCO)C=1SC=CC1CC | C16H20OS2
